US08067408B2
3-{[[(3-Bromo-4-fluorophenyl)methyl](methyl)amino]methyl}-N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}benzamide
To a solution of 3-(chloromethyl)-N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}benzamide (0.284 g, 0.623 mmol) in DMF (2.5 mL) was added [(3-bromo-4-fluorophenyl)methyl]methylamine (0.436 g, 2.0 mmol). This mixture was stirred at room temperature for 66 h. Then EtOAc (50 mL) was added and that solution washed with H2O (7.5+2×5 mL), brine (5 mL), dried over Na2SO4. The dried organic solution was filtered, concentrated and purified by CombiFlash chromatograph to afford the title compound 0.371 g (93%). LC-MS m/z 637 (M+H)+.

reactant | 3-(chloromethyl)-N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}benzamide | 0.623 mmol, 0.284 g | ClCC=1C=C(C(=O)NCC=2C(=C3C(=NC2CC)N(N=C3)CC)NC3CCOCC3)C=CC1 | C24H30ClN5O2
reactant | [(3-bromo-4-fluorophenyl)methyl]methylamine | 2.0 mmol, 0.436 g | BrC=1C=C(C=CC1F)CNC | C8H9BrFN
reactant | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
product | 3-{[[(3-Bromo-4-fluorophenyl)methyl](methyl)amino]methyl}-N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}benzamide | 0.371 g, 93% | BrC=1C=C(C=CC1F)CN(C)CC=1C=C(C(=O)NCC=2C(=C3C(=NC2CC)N(N=C3)CC)NC3CCOCC3)C=CC1 | C32H38BrFN6O2
